US07947730B2
Hydroxy-di-thiophen-2-yl-acetic acid (S)-1-methyl-pyrrolidin-2-ylmethyl ester
To a mixture of molecular sieve 4A, ((S)-1-Methyl-pyrrolidin-2-yl)-methanol (3.71 g, 31.2 mmol) and Hydroxy-di-thiophen-2-yl-acetic acid methyl ester (3.96 g, 15.6 mmol) in toluene (40 ml) is added sodium (65 mg) and the suspension is heated under stirring to 80° C. for 3.5 hours. Additional sodium (65 mg) is then added and the reaction mixture stirred at 80° C. for 16 hours. The reaction mixture is cooled to room temperature, diluted with diethylether (100 ml) and extracted with HCl 1 M (2×100 ml). The combined acidic aqueous layers are washed with diethylether (50 ml) and basified with sodium hydroxide 4 M whilst cooling in ice. The solution is then extracted with ethylacetate and diethylether. The combined organic layers are dried over magnesium sulphate, filtered and evaporated to dryness to give the title product.

reactant | ((S)-1-Methyl-pyrrolidin-2-yl)-methanol | 31.2 mmol, 3.71 g | CN1[C@@H](CCC1)CO | C6H13NO
reactant | Hydroxy-di-thiophen-2-yl-acetic acid methyl ester | 15.6 mmol, 3.96 g | COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C11H10O3S2
reactant | sodium | 65 mg | [Na] | Na
reactant | sodium | 65 mg | [Na] | Na
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | Hydroxy-di-thiophen-2-yl-acetic acid (S)-1-methyl-pyrrolidin-2-ylmethyl ester | CN1[C@@H](CCC1)COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C16H19NO3S2
